US04707488
C: 1-(3-(4-Methoxyphenyl)propyl)-5-mercaptotetrazole
3-(4-Methoxyphenyl)propylisothiocyanate (0.0174 mol) and sodium azide (0.0261 mol) were reacted substantially as described in Example 7H to give 2.4 g (55%) of an orange oil.

reactant | 3-(4-Methoxyphenyl)propylisothiocyanate | 0.0174 mol | COC1=CC=C(C=C1)CCCN=C=S | C11H13NOS
reactant | sodium azide | 0.0261 mol | [N-]=[N+]=[N-].[Na+]
product | 1-(3-(4-Methoxyphenyl)propyl)-5-mercaptotetrazole | 2.4 g, 55% | COC1=CC=C(C=C1)CCCN1N=NN=C1S | C11H14N4OS
